US04182758
A solution of phenoxyacetyl chloride (3.4 g.) in dried acetone (10 ml.) was added dropwise to a solution of 3-(N-hydroxyamino)propylphosphonic acid (1.51 g.) in mixture of 1 N aqueous sodium hydroxide solution (30 ml.) and acetone (20 ml.) under ice-cooling in the course of 10 minutes, and the mixture was stirred for an hour at the same temperature, and then adjusted to pH 10 with 1 N aqueous sodium hydroxide solution. The acetone was distilled off from the reaction mixture, and the remaining aqueous solution was adjusted to pH 2.0 with 10% hydrochloric acid, washed with ethyl ether, and then adjusted to pH 1.0 with 10% hydrochloric acid and saturated with sodium chloride. This solution was extracted twice with ethyl acetate (each 100 ml. portion) (insoluble materials (0.2 g.) produced at this stage were collected by filtration) and the combined extracts were dried over magnesium sulfate and evaporated to dryness under reduced pressure to give 3-(N-hydroxy-N-phenoxyacetylamino)propylphosphonic acid (0.1 g.). Insoluble materials produced above were identified with the same object compound.

reactant | phenoxyacetyl chloride | 3.4 g | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | 3-(N-hydroxyamino)propylphosphonic acid | 1.51 g | ONCCCP(O)(O)=O | C3H10NO4P
reactant | sodium hydroxide | 1 N, 30 ml | [OH-].[Na+]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 3-(N-hydroxy-N-phenoxyacetylamino)propylphosphonic acid | 0.1 g | ON(C(COC1=CC=CC=C1)=O)CCCP(O)(O)=O | C11H16NO6P
